US09446130B2
A solution of 1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (4.05 g, 11.13 mmol), 3-bromo-N-(2,4-dimethoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.9 g, 13.35 mmol) and PPh3 (4.38 g, 16.70 mmol) in dry THF (110 mL) at 0° C. was added dropwise DIAD (3.37 g, 16.70 mmol) over a period of 5 minutes under a nitrogen atmosphere, then the mixture was stirred at room temperature for 4 hours. Removed the solvent under reduced pressure and then extracted with DCM, the combined organic layer was washed with water, brine and dried over anhydrous Na2SO4. The organic layer was concentrated in vacuo and the residue was purified by preparative HPLC separation to afford 3-bromo-N-(2,4-dimethoxybenzyl)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2.3 g, yield 32.4%). MS-ESI (m/z): 640 (M+2)+ (Acq Method: 10-80AB_2 min; Rt: 1.357 min)

reactant | 1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 11.13 mmol, 4.05 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1N=CC=2C(CCCC12)O | C14H16N2O3S
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 13.35 mmol, 3.9 g | BrC1=NNC2=NC=NC(=C21)NCC2=C(C=C(C=C2)OC)OC | C14H14BrN5O2
reactant | PPh3 | 16.70 mmol, 4.38 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 16.70 mmol, 3.37 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 3-bromo-N-(2,4-dimethoxybenzyl)-1-(1-tosyl-4,5,6,7-tetrahydro-1H-indazol-4-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.3 g, yield 32.4% | BrC1=NN(C2=NC=NC(=C21)NCC2=C(C=C(C=C2)OC)OC)C2C=1C=NN(C1CCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H28BrN7O4S
